Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
"I wanted to kill myself"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Briefly, this is a ___ y/o man with reported diagnoses of
schizophrenia, living situation unclear, self-presenting with
thought blocking, AH, SI, and HI towards his boyfriend and
stating he took an overdose of 5 or so Seroquel tablets. Patient
is very poor historian. He cannot tell me anything about what
happened recently or why he fought with boyfriend. States he 
just
got out of hospital starting with W (not ___, not ___ -
possibly ___?). Laughing inappropriately, denies
sleep or appetite problems. Denies using any substances 
recently,
but is very vague about past hx, cannto explain + cocaine on
urine tox. 

Collateral:
Spoke with Dr. ___ was not familiar w/ patient, likely 
saw
him once in cross coverage at ___, did not have access to ___
records at the moment, but stated he would call back after
gathering more info. 

Spoke with Dr. ___, who sees patient at ___, and has seen pt. 3 times, at times looking
psychotic. Pt. states he was "a crack baby", treated w/
stimulants through childhood. He recently moved to ___ from ___,
is currently homeless, spends sometime at ___,
Transgender m->F.  Per report has had recent multiple 
psychiatric
hospitalizations, for psychotic and trauma symptoms. He came to
her on seroquel, celexa and trazodone, requesting stimulants,
which she deferred given cocaine use and not knowing pt. well,
just continued on seroquel and Celexa. He did not appear grossly
psychotic, w/ histrionic overlay, w mood symptoms. Then Was
hospitalized from ___ at ___. Following this, 
he
re-presented looking more psychotic, complaining of AH, w/
intermittent SI. Diagnostic picture still unclear and She 
wonders
if component of psychotic presentation could be volitional or 
due
to dysphoria secondary to gender identity or trauma, or some
combination of the above. 

She recently increased to seroquel 100 qam 200 QHS, which seemed
to work better for him. There are likely problems with 
compliance
and substance abuse.  

ROS:
Denies f/c/n/v/d. Denies CP, SOB. All systems otherwise 
negative.
FH: Pt denies hx of substance use or psychiatric problems in
family members.

 
Past Medical History:
PPH:
States he is treated in ___ by psychiatrist but cannot recall
where.Gets meds at ___
Will not answer whether he has had prior suicide attempt
States his diagnosis is Schizophrenia

PMH: none acute
 
Social History:
___
Family History:
denies
 
Physical Exam:
Pt refused
 
Pertinent Results:
LABS:
EKG: altered T wave morphology, QTC 425, sinus brady; reviewed 
by
team with cardiology, consistent with T wave pattern in young
males - no acute concern
CBC wnl
Chem wnl
UA wnl
Urine tox + cocaine, o/w neg
Serum tox neg

 
Brief Hospital Course:
PSYCHIATRIC
# SI: In the ED, pt reported plan to hang himself with a rope. 
During inpatient stay, pt denied SI/intent/plan. Possible 
precipitants include a break-up with his boyfriend -- who he 
reported was physically abusive to him -- and fight between his 
mother and stepfather, which worried him for his mother's sake. 
He declined to let team call family. Pt was future orientated at 
time of discharge with goal to train as a ___ (Workplace on 
___) and obtain work in the area. 
During his stay on the inpatient unit, the pt never exhibited 
any self-injurious activities and was safe.  He attended groups 
and especially noted enjoying the spa group.  He was able to 
tolerate ___ d/w staff about how his drug use contributed to the 
SI he presented with, and he agreed to sobriety.  

# COCAINE INDUCED PSYCHOSIS
The pt presented with cocaine and MJ intake and subsequent 
psychosis and SI. 

Pt had the following psychotic symptoms on admission:
-AH telling him to hurt someone which were egodystonic (pt 
recognized this was dangerous and asked to end the meeting so he 
could be in a larger room) - he had no intent or plan to act on 
distressing voices
-parnaoia - feels like people might be after him (reported 
recent discourse with sister whom he had paranoid thoughts 
about)
-thought blocking
-selective mutism

Home seroquel 100 mg qam was continued and titrated to 100 mg 
qam and 200 mg qhs. 
The psychotic symptoms resolved after ___ days during which time 
he underwent cocaine withdrawal and stayed in bed most of time 
except to eat. Afterwards, pt was noted to have organized, 
future orientated thinking with no delusions or paranoia. Pt 
reported that seroquel was helpful, which was continued (100 mg 
BID) to help with sleep and mood although pt appears to have a 
primary substance abuse d/o. 

Although we used the neuroleptic in the hospital to help with 
the above target sx and initial distress, we would recommend 
that patient be tapered off seroquel as outpatient as he does 
not have a primary psychotic disorder.  His sx completely 
alleviated after ___ indicating that he likely suffered from 
cocaine intoxication problems and not primary psychosis.  

Pt was informed of his diagnosis and told that we did not 
believe he had schizophrenia. Pt stated that he did have 
schizophrenia and endorsed multiple atypical sx including
-that he hears multiple voices (he could not identify whether 
male or female or recognize the voices) 
-that yell at him all the time and nothing makes them better or 
worse. 
-He also endorsed seeing people in odd colors. 
It is possible that patient maybe expressing psychotic symptoms 
for secondary gain. Specifically, housing, as he is new to 
___ and we rec'd collateral information that he has had over 
6 hospitalizations (including this one) since ___.

Pt receives mental health care at ___ and ___ 
___
and had a follow up appointment with Dr. ___ at ___ 
___. Pt agreed to attend a dual diagnosis partial program. 

# R/O DEPRESSION
Pt was continued on home medication of celexa 20 mg. On the 
unit, pt was observed to be full of energy and euthymic after 
symptoms of cocaine withdrawal resolved. Would recommend that 
patient be tapered off celexa as outpatient as he does not 
appear to be depressed. 

# COCAINE ABUSE: Pt was found to have a crack pipe in his 
belongings and tox screen was positive for cocaine. Pt was 
educated that doing cocaine can cause psychotic symptoms and 
that he should not do cocaine. Pt consitently denied abusing 
cocaine and stated that his marijuana must have been 
contanimated with cocaine. Per records obtained from ___ 
___, pt was doing cocaine at that time as well. He stated he 
would stop doing marijuana and did not need a support such as 
smart recover/AA to stop using marijuana. He was noted to be in 
the precontemplative stage for addiction recovery. Prior to 
discharge, pt did agree that NA with sponsor would help with 
attaining sobriety. He agreed to attend a NA meeting on day of 
discharge and to continue going to NA. He was ambivalent about 
obtaining a sponsor stating it is hard to "find the right one."

COLLATERAL: 
Outpatient psychiatrist Dr. ___ is concerned that this 
hospitalization
is part of a pattern of help-seeking behavior during which the 
patient attempts to modulate/reduce his symptoms of AH and 
psychosis. She is in agreement with the plan of discharging 
patient on ___ but said that she is certain that he'll be back.
She does not believe patient has a primary psychotic behavior at 
this time. When asked directly about potential safety concerns, 
Dr. ___ that there were always concerns in a high risk, 
highly fragile person like the patient. She
mentioned the following as the major risk factors: (1) lack of 
stability (2) low social capital (3) lack of relationships or a 
support system aware of his illness that he can really count 
upon and (4) lack of coping skills. She would like the inpatient 
team to have a frank conversation about substance/cocaine abuse 
with the patient.

Records were obtained from ___ and were not revealing 
about history or diagnosis. admitted from ___. Discharged 
to ___ where he stayed for one day. 

Per insurance company:
Pt was hospitalized at ___ on following dates:
___ - ___ - ___ subsequently sent to ___ down ___ program
from ___ - ___ - ___

GENERAL MEDICAL CONDITION: none acute
 
PSYCHOSOCIAL
# GROUPS/MILIEU
Pt attended groups and was visible on unit after cocaine 
withdrawal symptoms resolved. 
 
# FAMILY MEETING: Pt was reluctant to share much information 
about his past, asking why we need to know this. He reports 
being close with his mother and his sister but does not want us 
to contact them. They live in ___, which is where the pt is 
from, and he reports that he recently moved here for "personal 
reasons." He has been homeless and at times staying with a 
friend. He recently broke up with his
boyfriend of several months, who he reports was physically 
abusive to him. He gave us the number for longtime friend, ___, 
___ and however team was not able to reach her despite 
multiple attempts. 
 
LEGAL STATUS: Pt presented to unit on ___ He signed a CV 
on admission and a three day notice on ___. He was discharged 
before the three notice expired. 
 
RISK ASSESSMENT
This patient is currently sober, behaving safely, and has a low 
imminent risk of self-harm at this time.

He does, however, have chronic high risk for self harm.  
Pt has the following static risk factors: young age, hx of 
trauma, gay
Pt has the following dynamic risk factors which the team 
intervened upon:
SI with plan - pt has stablized and future orientated at time of 
discharge
substance abuse - pt was safely detoxed and encouraged to f/u 
with NA and attain a sponsor. dual diagnosis partial program
gender identity conflict - follow up with treaters
homelessness - returning to shelter

Also, pt has a high risk of relapsing into a psychotic episode 
in the future due to his lack of insight into need for sobriety. 
Pt has been educated about this risk and our recommendations to 
abstain from drugs.
 
During the hospitalization, pt did not engage in any 
self-injurious behaviors and he did not behave dangerously 
toward others.  At the time of discharge, he was not 
suicidal/homicidal, and she was meeting his basic needs for 
ordinary life.  Therefore, at this time, the least restrictive 
setting for care is outpatient. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 100 mg PO QAM 
2. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. QUEtiapine Fumarate 100 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
psychosis secondary to substance abuse

 
Discharge Condition:
A&Ox6
well dressed, well groomed
no pma/pmr, cooperative, no nystagmus
ambulating well
mood 'fine'
affect euthymic
TP: linear, future orienatated
TC: denies SI/HI intent/plan, denies ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you experience any of the following: 
Confusion or thoughts that people are out to harm you
Thoughts of hurting yourself or others
Hearing voices or experiencing other hallucinations that are 
distressing to you
Severe depression or anxiety or feeling otherwise overwhelmed
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

A DMH application has been submitted on your behalf. It takes 
___ weeks to deem someone eligible for these services. Please 
contact ___ to follow up on your application. 

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___